US06403055B1
A) L-Norleucine 1,1-dimethylethyl ester
To a suspension of L-norleucine (commercial product) (13.1 g; 0.1 mol) in t-butyl acetate (600 mL; 4.45 mol) maintained at 20° C., 70% aq. HClO4 (10.3 mL; 0.12 mol) was added in 10 min. The reaction was maintained at r.t. for 7 h. Saturated aq. Na2CO3 was slowly added until pH 9 was reached and the organic phase was separated and concentrated. The oily residue was dissolved in Et2O (250 mL) and extracted with 1N HCl (120 mL). The aqueous phase was basified to pH 10 with 1 N NaOH and extracted with Et2O (400 mL). The organic layer, dried over Na2SO4, was concentrated to give the desired compound (14.3 g; 76.4 mmol). Yield 76%.

reactant | L-norleucine | 0.1 mol, 13.1 g | N[C@@H](CCCC)C(=O)O | C6H13NO2
reactant | t-butyl acetate | 4.45 mol, 600 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | L-Norleucine 1,1-dimethylethyl ester | 76.4 mmol, 14.3 g, Yield 76% | CC(C)(C)OC([C@@H](N)CCCC)=O | C10H21NO2
